US05318966
A suspension of 2.00 g (0.006 mol) of rac-cis-3-(2-cyclohexylethyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-ol in 160 ml of toluene was treated with 2 ml (0.014 mol) of triethylamine, 0.88 g (0.007 mol) of 4-dimethylaminopyridine and 0.7 ml (0.007 mol) of dimethylcarbamoyl chloride and then boiled under reflux for 4 hours. After cooling the mixture was poured into a saturated aqueous sodium hydrogen carbonate solution. After extraction with methylene chloride and chromatography over silica gel with ethyl acetate/hexane 1:2 there were obtained 2.40 g of rac-cis-3-(2-cyclohexylethyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-yl dimethylcarbamate as an oil.

reactant | rac-cis-3-(2-cyclohexylethyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-ol | 0.006 mol, 2.00 g | C1(CCCCC1)CCN1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)O | C20H29NO
reactant | triethylamine | 0.014 mol, 2 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoyl chloride | 0.007 mol, 0.7 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 0.007 mol, 0.88 g | CN(C1=CC=NC=C1)C | C7H10N2
product | rac-cis-3-(2-cyclohexylethyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-yl dimethylcarbamate | 2.40 g | CN(C(OC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCC2CCCCC2)=O)C | C23H34N2O2
